US07250414B2
Step A: Preparation of 2-[4-(2-Hydroxyethyl)phenyl]ethan-1-ol
To a stirred solution of (4-carboxymethylphenyl)acetic acid (1.0 g, 5.15 mmol) in THF (100 mL) was slowly added borane dimethyl sulfide (2.3 mL, 30.9 mmol) and the resulting mixture was stirred overnight (˜18 hours). The reaction was then quenched by slowly adding 1N HCl (100 mL). The resulting mixture was then extracted with EtOAc (3×100 mL). The combined organic layers were washed with saturated NaCl (1×100 mL), dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to provide 750 mg of the title intermediate (87% yield), which was used without further purification.

reactant | (4-carboxymethylphenyl)acetic acid | 5.15 mmol, 1.0 g | C(=O)(O)CC1=CC=C(C=C1)CC(=O)O | C10H10O4
reactant | borane dimethyl sulfide | 30.9 mmol, 2.3 mL | CSC.B
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[4-(2-Hydroxyethyl)phenyl]ethan-1-ol | 750 mg, 87% yield | OCCC1=CC=C(C=C1)CCO | C10H14O2
